US08466150B2
4-oxo-N-(3-(2-(4-oxo-3,4,5,6,7,8-hexahydrophthalazin-1-yl)ethyl)phenyl)-4-phenylbutanamide
A mixture of 4-oxo-4-phenylbutanoic acid (50 mg, 0.28 mmol), 2-(3H-(1,2,3)triazolo(4,5-b)pyridin-3-yl)-1,1,3,3-tetramethylisouroniumhexafluorophosphate (V) (106 mg, 0.28 mmol) and Hunig's base (120 mg, 0.9 mmol) in anhydrous N,N-dimethylformamide (0.5 ml) was stirred at room temperature for 10 minutes, and EXAMPLE 260 (50 mg, 0.18 mmol) was added in one portion. The reaction mixture was stirred at room temperature for another 1 hour, and was diluted with 5 mL of methanol. The solid material was collected by filtration, washed with methanol, and dried to provide the title compound. MS (DCI/NH3) m/z 430 (M+H)+. 1H NMR (300 MHz, dimethylsulfoxide-d6): δ 1.54-1.77 (m, 4H), 2.30-2.42 (m, 2H), 2.42-2.49 (m, 2H), 2.65-2.79 (m, 4H), 2.79-2.89 (m, 2H), 3.30-3.38 (m, 2H), 6.90 (d, J=7.80 Hz, 1H), 7.19 (t, J=7.80 Hz, 1H), 7.38-7.49 (m, 2H), 7.54 (t, J=7.46 Hz, 2H), 7.61-7.69 (m, 1H), 7.99 (t, J=6.61 Hz, 2H), 9.96 (s, 1H), 12.52 (s, 1H).

reactant | 4-oxo-4-phenylbutanoic acid | 0.28 mmol, 50 mg | O=C(CCC(=O)O)C1=CC=CC=C1 | C10H10O3
reactant | Hunig's base | 0.9 mmol, 120 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
product | 4-oxo-N-(3-(2-(4-oxo-3,4,5,6,7,8-hexahydrophthalazin-1-yl)ethyl)phenyl)-4-phenylbutanamide | O=C(CCC(=O)NC1=CC(=CC=C1)CCC1=NNC(C=2CCCCC12)=O)C1=CC=CC=C1 | C26H27N3O3
